US08232278B2
Synthesis of 2,4-dihydroxy-6-(3-fluorophenyl)-pyrido[3,2-d]pyrimidine
A mixture of 3-amino-6-(3-fluorophenyl)-pyridine-2-carboxylic acid amide (0.46 g, 2.0 mmol) and triphosgene (0.30 g, 1.0 mmol) in dioxane (10 ml) was heated under reflux for 2 hours. After cooling to room temperature, the precipitate was collected by filtration and washed with diethyl ether. The title compound was obtained as a yellowish solid (410 mg, yield 80%) which was characterised as follows: MS (m/z): 258 ([M+H]+, 100).

reactant | 3-amino-6-(3-fluorophenyl)-pyridine-2-carboxylic acid amide | 2.0 mmol, 0.46 g | NC=1C(=NC(=CC1)C1=CC(=CC=C1)F)C(=O)N | C12H10FN3O
reactant | triphosgene | 1.0 mmol, 0.30 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2,4-dihydroxy-6-(3-fluorophenyl)-pyrido[3,2-d]pyrimidine | OC=1N=C(C2=C(N1)C=CC(=N2)C2=CC(=CC=C2)F)O | C13H8FN3O2
